US04879388
2-Hexyldecyl chloroformate was prepared by adding 2-hexyldecanol (540 g) during 3 hours to liquid phosgene (500 g) which was refluxing below a condenser cooled with a mixture of solid carbon dioxide and acetone. After addition was complete the mixture was stirred for 30 minutes, and excess phosgene was then allowed to evaporate into a scrubbing device charged with 20% aqueous sodium hydroxide. The last traces of phsogene were removed by bubbling nitrogen through the liquid product while it was heated to 120°.

reactant | 2-hexyldecanol | 540 g | C(CCCCC)C(CO)CCCCCCCC | C16H34O
reactant | phosgene | 500 g | C(=O)(Cl)Cl | CCl2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetone | CC(=O)C | C3H6O
product | 2-Hexyldecyl chloroformate | ClC(=O)OCC(CCCCCCCC)CCCCCC | C17H33ClO2
